US04075227
Preparation of 2-(3-Chlorobenzoyl)-3-phenyl-6-methoxybenzothiophene.
To 200 ml. of 1,2-dichloroethane were added 10.0 g. (0.042 mole) of 3-phenyl-6-methoxybenzothiophene and 6.5 g. (0.042 mole) of 3-chlorobenzoyl chloride. The mixture was stirred and cooled to 0° C., and 5.73 g. (0.042 mole) of aluminum chloride were added. The mixture was stirred for about one hour and ice then was added. The resulting organic layer was separated from the aqueous. The aqueous layer was washed with chloroform, and the chloroform was separated and added to the organic layer. The organic layer then was evaporated, and to the resulting residue were added 250 ml. of methanol and 15 ml. of 5N sodium hydroxide. The mixture was refluxed for 30 minutes and evaporated. The residue was recrystallized from methanol to obtain the title compound, m.p. 105° C.

reactant | 3-phenyl-6-methoxybenzothiophene | 0.042 mole | C1(=CC=CC=C1)C1=CSC2=C1C=CC(=C2)OC | C15H12OS
reactant | 3-chlorobenzoyl chloride | 0.042 mole | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | aluminum chloride | 0.042 mole | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(3-Chlorobenzoyl)-3-phenyl-6-methoxybenzothiophene | ClC=1C=C(C(=O)C=2SC3=C(C2C2=CC=CC=C2)C=CC(=C3)OC)C=CC1 | C22H15ClO2S
